US06528505B1
Step A: Synthesis of Decahydro-quinoline-2-carboxylic Acid Hydrochloride
A mixture of PtO2 (25 wt. %) and 2-quinolinecarboxylic acid (Aldrich) in acetic acid was hydrogenated at RT under 60 Psi overnight. The reaction mixture was stripped to dryness. Concentrated HCl was added and stripped to dryness to give the title compound as a white solid.

reactant | 2-quinolinecarboxylic acid | N1=C(C=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
reactant | HCl | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | PtO2 | O=[Pt]=O
product | Decahydro-quinoline-2-carboxylic Acid Hydrochloride | Cl.N1C(CCC2CCCCC12)C(=O)O | InChI=1S/C10H17NO2.ClH/c12-10(13)9-6-5-7-3-1-2-4-8(7)11-9;/h7-9,11H,1-6H2,(H,12,13);1H
